*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_0 1 2 3 4 REF
C_C1 1 REF 0.3537122009255pf
C_C2 1 2 16.429405666924pf
C_C3 1 3 0.0386533009411pf
C_C4 1 4 0.1929969702105pf
C_C5 2 REF 0.5570149919301pf
C_C6 2 3 0.0864225134855pf
C_C7 3 REF 0.3787605407475pf
C_C8 3 4 6.9841947134677pf
C_C9 4 REF 0.3854732360948pf
L_L1 3 5 1.3107245524667nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_1 1 2 3 4 REF
C_C1 1 REF 0.3594569965311pf
C_C2 1 2 16.526617425346pf
C_C3 1 3 0.031842672826pf
C_C4 1 4 0.2017626061624pf
C_C5 2 REF 0.5656917778377pf
C_C6 2 3 0.0919062482481pf
C_C7 3 REF 0.38009990717pf
C_C8 3 4 5.1745194064566pf
C_C9 4 REF 0.3836911645548pf
L_L1 3 5 1.3122106554595nh
R_RL1 5 4 2.2690939659e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_2 1 2 3 4 REF
C_C1 1 REF 0.3549346050669pf
C_C2 1 2 16.652151627059pf
C_C3 1 3 0.0264961691958pf
C_C4 1 4 0.2091636543717pf
C_C5 2 REF 0.5644661722081pf
C_C6 2 3 0.096131484682pf
C_C7 3 REF 0.3812323542766pf
C_C8 3 4 3.9112911655335pf
C_C9 4 REF 0.3821353232497pf
L_L1 3 5 1.3134482636799nh
R_RL1 5 4 1.4323253708e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_3 1 2 3 4 REF
C_C1 1 REF 0.3435923732778pf
C_C2 1 2 16.850765698605pf
C_C3 1 3 0.0213113160629pf
C_C4 1 4 0.2170555128337pf
C_C5 2 REF 0.5577486224744pf
C_C6 2 3 0.100233877374pf
C_C7 3 REF 0.3823287491043pf
C_C8 3 4 2.824771346806pf
C_C9 4 REF 0.3805921430912pf
L_L1 3 5 1.3147000565677nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_4 1 2 3 4 REF
C_C1 1 REF 0.3289709930182pf
C_C2 1 2 17.143481076322pf
C_C3 1 3 0.0165886913384pf
C_C4 1 4 0.2251911280795pf
C_C5 2 REF 0.5492561623447pf
C_C6 2 3 0.1040587235563pf
C_C7 3 REF 0.3832444032698pf
C_C8 3 4 1.9545010241592pf
C_C9 4 REF 0.3792773533725pf
L_L1 3 5 1.3159497103257nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_5 1 2 3 4 REF
C_C1 1 REF 0.3161709402936pf
C_C2 1 2 17.500921541292pf
C_C3 1 3 0.0129600043433pf
C_C4 1 4 0.2324925591675pf
C_C5 2 REF 0.5432730846322pf
C_C6 2 3 0.107135072013pf
C_C7 3 REF 0.3838171587772pf
C_C8 3 4 1.379059148217pf
C_C9 4 REF 0.3784377395361pf
L_L1 3 5 1.3169575792797nh
R_RL1 5 4 -1.593153866e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_6 1 2 3 4 REF
C_C1 1 REF 0.305886735855pf
C_C2 1 2 17.926350722893pf
C_C3 1 3 0.0100159554002pf
C_C4 1 4 0.2394358541606pf
C_C5 2 REF 0.5405265182821pf
C_C6 2 3 0.1097758613257pf
C_C7 3 REF 0.3841440115618pf
C_C8 3 4 0.9852092935483pf
C_C9 4 REF 0.3779444730534pf
L_L1 3 5 1.317783956242nh
R_RL1 5 4 -2.431398389e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_7 1 2 3 4 REF
C_C1 1 REF 0.2965734535146pf
C_C2 1 2 18.519552978683pf
C_C3 1 4 0.2475987068418pf
C_C4 2 REF 0.5410732303761pf
C_C5 2 3 0.1125936062832pf
C_C6 3 REF 0.3843124894323pf
C_C7 3 4 0.6712230333464pf
C_C8 4 REF 0.3776687707586pf
L_L1 3 5 1.3185614668859nh
R_RL1 5 4 -3.235109398e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_8 1 2 3 4 REF
C_C1 1 REF 0.2881808192071pf
C_C2 1 2 19.323638178935pf
C_C3 1 4 0.2574322972105pf
C_C4 2 REF 0.5453566354256pf
C_C5 2 3 0.1157322659873pf
C_C6 3 REF 0.3843359314522pf
C_C7 3 4 0.4296806521417pf
C_C8 4 REF 0.377587675891pf
L_L1 3 5 1.3192929344792nh
R_RL1 5 4 -3.95987463e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_9 1 2 3 4 REF
C_C1 1 REF 0.2799569472627pf
C_C2 1 2 20.424603554871pf
C_C3 1 4 0.2698922839079pf
C_C4 2 REF 0.5537227888205pf
C_C5 2 3 0.1195069630419pf
C_C6 3 REF 0.3842347784802pf
C_C7 3 4 0.25185137941pf
C_C8 4 REF 0.3776627840419pf
L_L1 3 5 1.3199395355578nh
R_RL1 5 4 -4.499757779e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_10 1 2 3 4 REF
C_C1 1 REF 0.2706343305754pf
C_C2 1 2 21.911174108534pf
C_C3 1 4 0.2860636898314pf
C_C4 2 REF 0.5660576319657pf
C_C5 2 3 0.124321951152pf
C_C6 3 REF 0.3840452381926pf
C_C7 3 4 0.1232470633417pf
C_C8 4 REF 0.3778333797123pf
L_L1 1 5 99.164763726012nh
R_RL1 5 2 6.7009583274321
L_L2 3 6 1.320492432162nh
R_RL2 6 4 -4.794675442e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_11 1 2 3 4 REF
C_C1 1 REF 0.2583774466821pf
C_C2 1 2 23.961645135197pf
C_C3 1 4 0.3080067826056pf
C_C4 2 REF 0.58290802679pf
C_C5 2 3 0.1309204391983pf
C_C6 3 REF 0.3837903633229pf
C_C7 3 4 0.0329684453426pf
C_C8 4 REF 0.3780564972159pf
L_L1 1 5 59.575759658287nh
R_RL1 5 2 5.2768946715951
L_L2 3 6 1.3209361398246nh
R_RL2 6 4 -4.758012619e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_12 1 2 3 4 REF
C_C1 1 REF 0.2410922289171pf
C_C2 1 2 26.799807954539pf
C_C3 1 4 0.338316198511pf
C_C4 2 REF 0.6051888651856pf
C_C5 2 3 0.1402675798364pf
C_C6 3 REF 0.3834873838857pf
C_C7 4 REF 0.3783063273872pf
L_L1 1 5 33.89192662815nh
R_RL1 5 2 3.0237336352438
L_L2 3 6 1.321037967896nh
R_RL2 6 4 -4.357565194e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_13 1 2 3 4 REF
C_C1 1 REF 0.2152942618214pf
C_C2 1 2 30.890464662426pf
C_C3 1 4 0.382167669344pf
C_C4 2 REF 0.635684338614pf
C_C5 2 3 0.1541928143693pf
C_C6 3 REF 0.3831349299314pf
C_C7 4 REF 0.3785909851528pf
R_R1 1 2 -840.0360069031
L_L1 1 5 37.17207969667nh
R_RL1 5 2 28.545805137663
L_L2 3 6 1.3207729458895nh
R_RL2 6 4 -2.874300117e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_14 1 2 3 4 REF
C_C1 1 REF 0.1758853353862pf
C_C2 1 2 36.965428555405pf
C_C3 1 4 0.4475228636506pf
C_C4 2 REF 0.679184772789pf
C_C5 2 3 0.1753994645578pf
C_C6 3 REF 0.3827223635736pf
C_C7 4 REF 0.3789529555739pf
R_R1 1 2 -537.2439401353
L_L1 1 5 14.51533288614nh
R_RL1 5 2 2.1818956339375
L_L2 3 6 1.320333449656nh
R_RL2 6 4 -2.126529762e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_15 1 2 3 4 REF
C_C1 1 REF 0.1114570238285pf
C_C2 1 2 46.712708731367pf
C_C3 1 4 0.5524224235736pf
C_C4 2 REF 0.7471158799558pf
C_C5 2 3 0.2097792521328pf
C_C6 3 REF 0.3822129683414pf
C_C7 4 REF 0.3795060823933pf
R_R1 1 2 -363.9907660657
L_L1 1 5 7.9526970544447nh
R_RL1 5 2 0.8665044436784
L_L2 3 6 1.3195735746723nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_16 1 2 3 4 REF
C_C1 1 2 65.331077435364pf
C_C2 1 4 0.7523858479598pf
C_C3 2 REF 0.8748853995928pf
C_C4 2 3 0.2753666952832pf
C_C5 3 REF 0.3814688384217pf
C_C6 4 REF 0.3806081926077pf
R_R1 1 2 -245.1365309069
L_L1 1 5 3.6127969120861nh
R_RL1 5 2 0.2954119167688
L_L2 3 6 1.3181389961492nh
R_RL2 6 4 1.252461729e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_17 1 2 3 4 REF
C_C1 1 2 109.28630810878pf
C_C2 1 4 1.2238610448607pf
C_C3 2 REF 1.1741819071609pf
C_C4 2 3 0.4298232327866pf
C_C5 3 REF 0.3800923610275pf
C_C6 4 REF 0.3834480012699pf
R_R1 1 2 -155.1048711148
L_L1 1 5 1.3871167765185nh
R_RL1 5 2 0.092676562638
L_L2 1 6 61.908084786612nh
R_RL2 6 3 0.0563557137144
L_L3 1 7 61.165219948015nh
R_RL3 7 4 0.0568564858841
L_L4 2 8 62.004586781974nh
R_RL4 8 3 0.0050094602684
L_L5 2 9 61.26472793458nh
R_RL5 9 4 0.0048551814849
L_L6 3 10 1.3148466050479nh
R_RL6 10 4 3.1421900781e-5
Kn_K1 L_L1 L_L2 0.0696364210426
Kn_K2 L_L1 L_L3 0.0698948462737
Kn_K3 L_L1 L_L4 -0.079987827822
Kn_K4 L_L1 L_L5 -0.080632402522
Kn_K5 L_L2 L_L3 0.9893345795019
Kn_K6 L_L2 L_L4 0.9888059905239
Kn_K7 L_L2 L_L5 0.978052575196
Kn_K8 L_L2 L_L6 -0.114036334219
Kn_K9 L_L3 L_L4 0.9781102202492
Kn_K10 L_L3 L_L5 0.9886704452639
Kn_K11 L_L3 L_L6 0.0318905767322
Kn_K12 L_L4 L_L5 0.9893513651321
Kn_K13 L_L4 L_L6 -0.113781099002
Kn_K14 L_L5 L_L6 0.0320321288717
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_18 1 2 3 4 REF
C_C1 1 2 274.39652075004pf
C_C2 1 4 2.9956052215495pf
C_C3 2 REF 2.2946173460804pf
C_C4 2 3 1.0102462146868pf
C_C5 3 REF 0.3757768444163pf
C_C6 4 REF 0.3949999396854pf
R_R1 1 2 -81.36802843254
L_L1 1 5 49.032692461225nh
R_RL1 5 REF -0.029792779999
L_L2 1 6 0.3746013997854nh
R_RL2 6 2 0.0163415110298
L_L3 1 7 19.542031722666nh
R_RL3 7 3 0.0095777259314
L_L4 1 8 18.849448601247nh
R_RL4 8 4 0.0098556520003
L_L5 2 9 48.745747791831nh
R_RL5 9 REF -0.012873021129
L_L6 2 10 19.610289373972nh
R_RL6 10 3 0.0010943728507
L_L7 2 11 18.921791298938nh
R_RL7 11 4 9.8461290286e-4
L_L8 3 12 68.13157946931nh
R_RL8 12 REF -0.02086336975
L_L9 3 13 1.3026400140027nh
R_RL9 13 4 4.5744824996e-5
L_L10 4 14 67.429734210354nh
R_RL10 14 REF -0.020500281296
Kn_K1 L_L1 L_L2 0.0771796009589
Kn_K2 L_L1 L_L5 0.9961731648685
Kn_K3 L_L1 L_L8 0.8445039289717
Kn_K4 L_L1 L_L10 0.8488070390079
Kn_K5 L_L2 L_L3 0.0566121269111
Kn_K6 L_L2 L_L4 0.0568741336664
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081697511925
Kn_K9 L_L2 L_L7 -0.08393776257
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9662267932989
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.990433709709
Kn_K15 L_L3 L_L7 0.9564124621571
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.197726287472
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9566831193218
Kn_K21 L_L4 L_L7 0.9900841802066
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0615571933242
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8439041012995
Kn_K26 L_L5 L_L10 0.8481682345672
Kn_K27 L_L6 L_L7 0.9663476403843
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.196977751702
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0618508153146
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1063864796688
Kn_K35 L_L8 L_L10 0.9904040425713
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_19 1 2 3 4 REF
C_C1 1 REF 313.80377499358pf
C_C2 1 3 162.69193720163pf
C_C3 2 4 496.02498145423pf
C_C4 3 REF 1.4841214127561pf
R_R1 1 REF -2.103950763084
R_R2 1 2 0.0142721477841
R_R3 1 3 -4.057261263233
R_R4 1 4 1.3291302796512
R_R5 2 REF 2.1048670191867
R_R6 2 3 4.0590337208727
R_R7 2 4 -1.329710749728
R_R8 3 REF -598.3740436765
R_R9 3 4 378.24337186731
R_R10 4 REF 196.02115064692
L_L1 1 5 0.1853864584784nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.0017838290159nh
R_RL2 6 2 -0.012783690403
L_L3 1 7 0.2851785141685nh
R_RL3 7 3 -4.991585678e-4
L_L4 1 8 0.1091936640029nh
R_RL4 8 4 -0.011196295816
L_L5 2 9 0.184679582198nh
R_RL5 9 REF -0.012848760304
L_L6 2 10 0.2847531686913nh
R_RL6 10 3 -8.221305169e-3
L_L7 2 11 0.1098103244652nh
R_RL7 11 4 -5.237815005e-5
L_L8 3 12 0.4681310339171nh
R_RL8 12 REF -5.124172331e-4
L_L9 3 13 0.3461738653638nh
R_RL9 13 4 -6.957326201e-3
L_L10 4 14 0.2923446482456nh
R_RL10 14 REF -0.011257221451
Kn_K1 L_L1 L_L2 0.068482046883
Kn_K2 L_L1 L_L5 0.9951815163846
Kn_K3 L_L1 L_L8 0.625165441895
Kn_K4 L_L1 L_L10 0.7915257434152
Kn_K5 L_L2 L_L3 0.0489739362609
Kn_K6 L_L2 L_L4 0.0418146292984
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.030137934862
Kn_K9 L_L2 L_L7 -0.085757401209
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.020966041839
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.1365666699862
Kn_K14 L_L3 L_L5 0.8023851902746
Kn_K15 L_L3 L_L6 0.9968703778951
Kn_K16 L_L3 L_L7 0.1299407258389
Kn_K17 L_L3 L_L8 0.5040522596022
Kn_K18 L_L3 L_L9 -0.830934892189
Kn_K19 L_L3 L_L10 0.6381836115132
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.1333590666138
Kn_K22 L_L4 L_L7 0.9918587423272
Kn_K23 L_L4 L_L8 0.814582822038
Kn_K24 L_L4 L_L9 0.4376789615553
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.6258819919109
Kn_K27 L_L5 L_L10 0.7901910525241
Kn_K28 L_L6 L_L7 0.1368253021137
Kn_K29 L_L6 L_L8 0.5040430315827
Kn_K30 L_L6 L_L9 -0.829895829052
Kn_K31 L_L6 L_L10 0.6363664377494
Kn_K32 L_L7 L_L8 0.8116715250152
Kn_K33 L_L7 L_L9 0.4391205127006
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.648300834342
Kn_K36 L_L8 L_L10 0.5599581263849
Kn_K37 L_L9 L_L10 0.651166619594
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_20 1 2 3 4 REF
C_C1 1 2 38053.816718429pf
C_C2 1 4 408.63145834167pf
C_C3 2 REF 258.38018458728pf
C_C4 2 3 133.89902467654pf
C_C5 3 4 1.2869876601835pf
C_C6 4 REF 3.1433175154684pf
R_R1 1 REF 2.5067009601223
R_R2 1 2 -0.017004108329
R_R3 1 3 4.8339005080502
R_R4 1 4 -1.583558851754
R_R5 2 REF -2.507797093604
R_R6 2 3 -4.83601181278
R_R7 2 4 1.5842505271214
R_R8 3 REF 712.91276451293
R_R9 3 4 -450.2049061717
R_R10 4 REF -233.5458731384
L_L1 1 5 0.1866777770722nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.0011356961891nh
R_RL2 6 2 0.0017158791058
L_L3 1 7 0.2875286505791nh
R_RL3 7 3 6.8986730379e-5
L_L4 1 8 0.1092353153003nh
R_RL4 8 4 0.0015005725928
L_L5 2 9 0.1853024993476nh
R_RL5 9 REF 0.0017178059807
L_L6 2 10 0.2867027682396nh
R_RL6 10 3 0.0011011495396
L_L7 2 11 0.1104288633365nh
R_RL7 11 4 1.0e-5
L_L8 3 12 0.4725387434385nh
R_RL8 12 REF 6.9294265756e-5
L_L9 3 13 0.3483156096643nh
R_RL9 13 4 9.3076822248e-4
L_L10 4 14 0.2934719616054nh
R_RL10 14 REF 0.0015023715121
Kn_K1 L_L1 L_L2 0.0862253191672
Kn_K2 L_L1 L_L5 0.9969537051483
Kn_K3 L_L1 L_L8 0.6257248040946
Kn_K4 L_L1 L_L10 0.7923446103338
Kn_K5 L_L2 L_L3 0.0542755278882
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L7 -0.103995044859
Kn_K8 L_L2 L_L8 1.0
Kn_K9 L_L2 L_L9 -0.050766980784
Kn_K10 L_L2 L_L10 1.0
Kn_K11 L_L3 L_L4 0.136686919074
Kn_K12 L_L3 L_L5 0.8033054973857
Kn_K13 L_L3 L_L6 0.9980232648071
Kn_K14 L_L3 L_L7 0.1304420404408
Kn_K15 L_L3 L_L8 0.5041840683114
Kn_K16 L_L3 L_L9 -0.83201509217
Kn_K17 L_L3 L_L10 0.6384396567446
Kn_K18 L_L4 L_L5 1.0
Kn_K19 L_L4 L_L6 0.1370471010008
Kn_K20 L_L4 L_L7 0.9948445381024
Kn_K21 L_L4 L_L8 0.8179902894329
Kn_K22 L_L4 L_L9 0.4358206696229
Kn_K23 L_L4 L_L10 1.0
Kn_K24 L_L5 L_L8 0.6271141975833
Kn_K25 L_L5 L_L10 0.7897716534527
Kn_K26 L_L6 L_L7 0.1371750557839
Kn_K27 L_L6 L_L8 0.5041634161085
Kn_K28 L_L6 L_L9 -0.830017402505
Kn_K29 L_L6 L_L10 0.6349305697189
Kn_K30 L_L7 L_L8 0.8123552110535
Kn_K31 L_L7 L_L9 0.438607417398
Kn_K32 L_L7 L_L10 1.0
Kn_K33 L_L8 L_L9 0.6499657165493
Kn_K34 L_L8 L_L10 0.5608249955586
Kn_K35 L_L9 L_L10 0.6532201962584
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_21 1 2 3 4 REF
C_C1 1 2 158.48583672549pf
C_C2 1 4 1.7456101486115pf
C_C3 2 REF 1.5126809618748pf
C_C4 2 3 0.602722292876pf
C_C5 3 REF 0.3768401429835pf
C_C6 4 REF 0.3844834585283pf
R_R1 1 2 -95.42960886642
L_L1 1 5 62.543984310993nh
R_RL1 5 REF 0.0151744819108
L_L2 1 6 0.2133377443991nh
R_RL2 6 2 0.0118530129764
L_L3 1 7 19.904466864691nh
R_RL3 7 3 0.0071962907906
L_L4 1 8 19.188620293317nh
R_RL4 8 4 0.0074251850219
L_L5 2 9 61.911542699553nh
R_RL5 9 REF 0.0284780666618
L_L6 2 10 20.057998023746nh
R_RL6 10 3 3.3571026103e-4
L_L7 2 11 19.350358590607nh
R_RL7 11 4 2.8938203071e-4
L_L8 3 12 82.037993724631nh
R_RL8 12 REF 0.0239840799768
L_L9 3 13 1.3006515332234nh
R_RL9 13 4 -1.547084872e-5
L_L10 4 14 81.308330774426nh
R_RL10 14 REF 0.0242303580465
Kn_K1 L_L1 L_L2 0.1157711808982
Kn_K2 L_L1 L_L5 0.9982987212866
Kn_K3 L_L1 L_L8 0.8702776713995
Kn_K4 L_L1 L_L10 0.874077023013
Kn_K5 L_L2 L_L3 0.0145114191692
Kn_K6 L_L2 L_L4 0.0127514428399
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088675422092
Kn_K9 L_L2 L_L7 -0.092301969975
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9668914880312
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9946688876243
Kn_K15 L_L3 L_L7 0.9613184702433
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.198158209318
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9618688397807
Kn_K21 L_L4 L_L7 0.9944731220812
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.058530023701
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8691972061424
Kn_K26 L_L5 L_L10 0.8729333896343
Kn_K27 L_L6 L_L7 0.9671514760966
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.196594954793
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0591028701998
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0982755137755
Kn_K35 L_L8 L_L10 0.9920473582822
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_22 1 2 3 4 REF
C_C1 1 REF 0.153337785761pf
C_C2 1 2 44.090573985723pf
C_C3 1 4 0.5187135599387pf
C_C4 2 REF 0.7439547974121pf
C_C5 2 3 0.1993361448527pf
C_C6 3 REF 0.3786887966541pf
C_C7 4 REF 0.3752062015221pf
R_R1 1 2 -906.1584081803
L_L1 1 5 0.6178364110958nh
R_RL1 5 2 0.0088736661279
L_L2 1 6 73.432115515695nh
R_RL2 6 3 0.0127126049045
L_L3 1 7 72.523879922358nh
R_RL3 7 4 0.0127447591825
L_L4 2 8 74.292340176199nh
R_RL4 8 3 -1.76774233e-3
L_L5 2 9 73.391848851694nh
R_RL5 9 4 -1.749884482e-3
L_L6 3 10 1.3117679128962nh
R_RL6 10 4 -3.111986631e-5
Kn_K1 L_L1 L_L2 -0.017992926127
Kn_K2 L_L1 L_L3 -0.018683700424
Kn_K3 L_L1 L_L4 -0.109082131194
Kn_K4 L_L1 L_L5 -0.110324319063
Kn_K5 L_L2 L_L3 0.9910317667968
Kn_K6 L_L2 L_L4 0.9958345271767
Kn_K7 L_L2 L_L5 0.9868049936369
Kn_K8 L_L2 L_L6 -0.113097275505
Kn_K9 L_L3 L_L4 0.9869813605994
Kn_K10 L_L3 L_L5 0.9957834172216
Kn_K11 L_L3 L_L6 0.0206861329387
Kn_K12 L_L4 L_L5 0.9911361744467
Kn_K13 L_L4 L_L6 -0.112048359004
Kn_K14 L_L5 L_L6 0.020958084004
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_23 1 2 3 4 REF
C_C1 1 REF 0.3295574087269pf
C_C2 1 2 18.748798710269pf
C_C3 1 3 0.0238822114269pf
C_C4 1 4 0.2470575470535pf
C_C5 2 REF 0.5793459552617pf
C_C6 2 3 0.108832021385pf
C_C7 3 REF 0.3782006812025pf
C_C8 4 REF 0.3721555703124pf
L_L1 1 5 0.9797122964246nh
R_RL1 5 2 2.8560710677e-4
L_L2 3 6 1.3130691092013nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_24 1 2 3 4 REF
C_C1 1 REF 0.3934555633929pf
C_C2 1 2 10.358742518663pf
C_C3 1 3 0.0580486674322pf
C_C4 1 4 0.1557666135055pf
C_C5 2 REF 0.5296609477914pf
C_C6 2 3 0.0776273476698pf
C_C7 3 REF 0.3770455653558pf
C_C8 4 REF 0.370017378679pf
L_L1 1 5 1.4052245255843nh
R_RL1 5 2 4.8880267112e-5
L_L2 3 6 1.3109829205624nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_25 1 2 3 4 REF
C_C1 1 REF 0.4257967559197pf
C_C2 1 2 6.8775742651247pf
C_C3 1 3 0.0771017800806pf
C_C4 1 4 0.1161001333272pf
C_C5 2 REF 0.5152068917244pf
C_C6 2 3 0.0622967027137pf
C_C7 2 4 0.0331029133498pf
C_C8 3 REF 0.3754097068266pf
C_C9 4 REF 0.3678073622997pf
L_L1 1 5 1.7953015870502nh
R_RL1 5 2 4.0164370278e-4
L_L2 3 6 1.308505860921nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_26 1 2 3 4 REF
C_C1 1 REF 0.4402075597491pf
C_C2 1 2 5.7531947556485pf
C_C3 1 3 0.0872152176079pf
C_C4 1 4 0.1017084556664pf
C_C5 2 REF 0.5149920707923pf
C_C6 2 3 0.0551392605391pf
C_C7 2 4 0.0506198054705pf
C_C8 3 REF 0.3740627967402pf
C_C9 4 REF 0.3661505151674pf
L_L1 1 5 1.9098855020319nh
R_RL1 5 2 8.9014678841e-5
L_L2 3 6 1.3074269301538nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param54_26

